US04414388
2-Amino-4-ethylthiazole (20.5 g., 0.16 mole) and diethyl ethoxymethylenemalonate (35 g., 0.17 mole) were combined and heated on a steam bath for 2 hours. 2-(2,2-dicarbethoxyethenylamino)-4-ethylthiazole was obtained as an oil on cooling, and was used directly in the next step. (Rf 0.75 on silica gel thin layer chromatography with chloroform/1% ethanol as eluant.)

reactant | 2-Amino-4-ethylthiazole | 0.16 mole, 20.5 g | NC=1SC=C(N1)CC | C5H8N2S
reactant | diethyl ethoxymethylenemalonate | 0.17 mole, 35 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 2-(2,2-dicarbethoxyethenylamino)-4-ethylthiazole | C(=O)(OCC)C(=CNC=1SC=C(N1)CC)C(=O)OCC | C13H18N2O4S
